US05693320
5-aminosalicylic acid (50.0 millimole, 7.7 g), methacrylic anhydride (60.0 millimole, 9.3 g), and butylhydroxytoluene (20.0 mg) were suspended in dimethyl sulfoxide (50.0 ml), After sealing the suspension, its temperature was raised to 60° C. by oil bath while stirring, and the suspension became homogeneous quickly. The mixture was further kept at 60° C. for five hours while stirring to give a viscous liquid having dark brown color. The reaction was kept proceeding till the viscous liquid gave brown precipitate. The precipitate was filtrated, washed by dichloromethane to give brownish gray powder. The powder was recrystallized by a solution of 0.5% hydroquinone in methanol, and dried under a reduced pressure to give brownish gray crystal of 5-methacrylamidosalicylic acid: yield 9.27 g, 83.8%.

reactant | 5-aminosalicylic acid | 50.0 millimole, 7.7 g | NC1=CC=C(C(C(=O)O)=C1)O | C7H7NO3
reactant | methacrylic anhydride | 60.0 millimole, 9.3 g | C(C(=C)C)(=O)OC(C(=C)C)=O | C8H10O3
reactant | butylhydroxytoluene | 20.0 mg | CC1=CC(=C(C(=C1)C(C)(C)C)O)C(C)(C)C | C15H24O
solvent | dimethyl sulfoxide | 50.0 ml | CS(=O)C | C2H6OS
product | 5-methacrylamidosalicylic acid | C(C(=C)C)(=O)NC1=CC=C(C(C(=O)O)=C1)O | C11H11NO4
